US04670438
2-(2-Methoxy-4-hydroxy-phenyl)-4H-imidazo[4,5-b]pyridin-5-one
3.95 g of 5-nitro-6-(2-methoxy-4-benzyloxy-benzoylamino)-2-pyridone were hydrogenated in 350 ml of glacial acetic acid after the addition of 1 g of 10% palladium-on-charcoal for 1.7 hours at 80° C. under a pressure of 5 bar. The reaction mixture was then stirred at 100° C. for 1.3 hours. The catalyst was filtered off, and the filtrate was allowed to cool. The product which precipitated was washed with ether. By evaporating the filtrate and adding ether, further fractions were obtained.

reactant | 5-nitro-6-(2-methoxy-4-benzyloxy-benzoylamino)-2-pyridone | 3.95 g | [N+](=O)([O-])C=1C=CC(NC1NC(C1=C(C=C(C=C1)OCC1=CC=CC=C1)OC)=O)=O | C20H17N3O6
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | 1 g | [Pd] | Pd
product | 2-(2-Methoxy-4-hydroxy-phenyl)-4H-imidazo[4,5-b]pyridin-5-one | COC1=C(C=CC(=C1)O)C1=NC=2C(NC(CC2)=O)=N1 | C13H11N3O3
